US09062028B2
Step C. Ethyl 4-(2,3-dimethylphenoxy)butanoate
A mixture of 2,3-dimethylphenol (12.2 g, 100 mmol), tetrabutylammonium iodide (0.738 g, 1.997 mmol), ethyl 4-bromobutanoate (14.29 mL, 100 mmol), and potassium carbonate (27.6 g, 200 mmol) in THF (100 mL) was heated at 60° C. for 20 h. After this time, the reaction mixture was cooled to room temperature. Once at the prescribed temperature, the reaction mixture was quenched with water (50 mL), and extracted with EtOAc (2×50 mL). The combined organic phases were concentrated, and purified by flash chromatography (0 to 30% EtOAc:hexanes) to afford the title compound (22.5 g, 90% yield) as colorless oil. LCMS, [M+Na]+=259.1. 1H NMR (400 MHz, CDCl3) δ 7.01 (dd, J=8.2, 7.5 Hz, 1H), 6.75 (d, J=7.5 Hz, 1H), 6.67 (d, J=8.2 Hz, 1H), 4.13 (q, J=7.1 Hz, 2H), 3.97 (t, J=6.0 Hz, 2H), 2.52 (t, J=7.4 Hz, 2H), 2.25 (s, 3H), 2.15-2.07 (m, 2H), 2.12 (s, 3H), 1.24 (t, J=7.1 Hz, 3H).

reactant | 2,3-dimethylphenol | 100 mmol, 12.2 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | ethyl 4-bromobutanoate | 100 mmol, 14.29 mL | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 1.997 mmol, 0.738 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Ethyl 4-(2,3-dimethylphenoxy)butanoate | 22.5 g, 90% yield | CC1=C(OCCCC(=O)OCC)C=CC=C1C | C14H20O3
